US08895544B2
4-[3-(5-Benzyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-2-fluoro-5-(2,2,2-trifluoro-ethyl)-phenol diethylamine salt
To a solution of 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol (Preparation 39, 100 mg, 168 μmol) in DMF (1 mL), was added benzyl bromide (28.8 mg, 20 μL, 168 μmol), and DIPEA (120 μL, 672 μmol). The reaction mixture was heated at 80° C. for 3 hours. The reaction mixture was then cooled to room temperature and saturated aqueous sodium hydrogen carbonate solution (5 mL) was added. The resulting solid was collected by filtration and washed with further saturated aqueous sodium hydrogen carbonate solution. The crude material was purified by HPLC Method A to afford 10.6 mg of the title compound.

reactant | 2-fluoro-4-[3-(4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-5-(2,2,2-trifluoro-ethyl)-phenol | 168 μmol, 100 mg | FC1=C(C=C(C(=C1)C1=CC=C2C(=NNC2=C1)C=1NC2=C(CNCC2)N1)CC(F)(F)F)O | C21H17F4N5O
reactant | benzyl bromide | 168 μmol, 20 μL, 28.8 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | DIPEA | 672 μmol, 120 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | 5 mL | C(O)([O-])=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-[3-(5-Benzyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridin-2-yl)-1H-indazol-6-yl]-2-fluoro-5-(2,2,2-trifluoro-ethyl)-phenol diethylamine salt | 10.6 mg | C(C)NCC.C(C1=CC=CC=C1)N1CC2=C(CC1)NC(=N2)C2=NNC1=CC(=CC=C21)C2=CC(=C(C=C2CC(F)(F)F)O)F | InChI=1S/C28H23F4N5O.C4H11N/c29-21-12-20(18(11-25(21)38)13-28(30,31)32)17-6-7-19-23(10-17)35-36-26(19)27-33-22-8-9-37(15-24(22)34-27)14-16-4-2-1-3-5-16;1-3-5-4-2/h1-7,10-12,38H,8-9,13-15H2,(H,33,34)(H,35,36);5H,3-4H2,1-2H3
